US09388189B2
(S)-3-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-5-hydroxybenzoic acid
(S)-Methyl 3-(4-amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-5-hydroxybenzoate (35 mg, 0.07 mmol) was dissolved in 5 mL tetrahydrofuran. Lithium hydroxide in 5 mL water was added and the mixture was stirred at 50° C. for 4 h. The solvent was evaporated and the residue was re-dissolved in dichloromethane. The aqueous phase was acidified with 2N hydrochloric acid. The aqueous was further extracted with dichloromethane and was washed with water and brine, dried over sodium sulphate, filtered and evaporated under reduced pressure. The residue was purified by reverse phase using SP1 ® Purification System to obtain 25 mg (72% yield) of the title compound as a white solid. Purity 97%.

reactant | (S)-Methyl 3-(4-amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-5-hydroxybenzoate | 0.07 mmol, 35 mg | NC1=NC=NC(=C1C=1C=C(C(=O)OC)C=C(C1)O)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C27H25N7O4
reactant | Lithium hydroxide | [OH-].[Li+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | (S)-3-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-5-hydroxybenzoic acid | 25 mg, 72% yield | NC1=NC=NC(=C1C=1C=C(C(=O)O)C=C(C1)O)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C26H23N7O4
